US08604074B2
Step 3. Synthesis of Ethyl 5-(2-Hydroxy-3-(3-methoxyphenylamino)propyl)-8-methyl-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate
Following a literature procedure (Chakraborti, A. K.; Rudrawar, S.; Kondaskar, A. Eur. J. Org. Chem. 2004, 3597-3600) LiBr (0.001 g, 0.010 mmol) and m-anisidine (0.011 mL, 0.102 mmol) were added to ethyl 8-Methyl-5-(oxiran-2-ylmethyl)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate (0.032 g, 0.102 mmol) and stirred vigorously at ambient temperature overnight. Upon completion the reaction was partitioned between EtOAc/H2O, and the organic layer was concentrated to an orange oil. The crude residue was purified by chromatography (SiO2, 0-50% EtOAc/Hexane) to afford the desired product (30 mg, 67%).

reactant | LiBr | 0.010 mmol, 0.001 g | [Li+].[Br-]
reactant | m-anisidine | 0.102 mmol, 0.011 mL | COC1=CC(=CC=C1)N | C7H9NO
reactant | ethyl 8-Methyl-5-(oxiran-2-ylmethyl)-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 0.102 mmol, 0.032 g | CC1=CC=2C3=C(N(C2C=C1)CC1OC1)CCN(C3)C(=O)OCC | C18H22N2O3
product | Ethyl 5-(2-Hydroxy-3-(3-methoxyphenylamino)propyl)-8-methyl-3,4-dihydro-1H-pyrido[4,3-b]indole-2(5H)-carboxylate | 30 mg, 67% | OC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C(=O)OCC)CNC2=CC(=CC=C2)OC | C25H31N3O4
